US07947727B2
Intermediate 12: 1-(4-Fluorophenyl)-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-indazol-4-amine
[2-(trifluoromethyl)-2-oxiranyl]methyl 4-methylbenzenesulfonate (6.14 g, 20.75 mmol) and 1-(4-fluorophenyl)-1H-indazol-4-amine (4.73 g, 20.75 mmol) in dry dichloromethane (5 ml) were stirred for 5 min. Bismuth chloride (654 mg, 2.07 mmol) was added and the mixture stirred at room temperature over the weekend. More bismuth chloride (0.33 g, 1.05 mmol) was then added and the mixture stirred overnight. The reaction was finally stirred overnight under nitrogen (to reduce the volume of DMF). There was no further progress on leaving for a further night. The reaction mixture was then diluted with chloroform (200 ml) and tetrahydrofuran (50 ml). N,N-Diisopropylethylamine (0.54 ml, 3.11 mmol) was added followed by polymer supported carbonate resin (Fluka, ca. 3.5 mmoles carbonate/g resin, 11.91 g) and the mixture stirred overnight. More THF (30 ml) was then added followed after 2 hours by some 4 A molecular sieves. After a further 3 hours LCMS indicated the reaction to be complete and the mixture was filtered. The filtrate was washed with water, the aqueous phase was back-extracted with dichloromethane and the combined organic phases were dried and evaporated to give crude product which was purified by silica gel chromatography using the Flashmaster II (2×100 g cartridges) eluting with a 0 to 50% dichloromethane:ethyl acetate gradient to give the title compound (4.31 g).

reactant | [2-(trifluoromethyl)-2-oxiranyl]methyl 4-methylbenzenesulfonate | 20.75 mmol, 6.14 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1(OC1)C(F)(F)F | C11H11F3O4S
reactant | 1-(4-fluorophenyl)-1H-indazol-4-amine | 20.75 mmol, 4.73 g | FC1=CC=C(C=C1)N1N=CC=2C(=CC=CC12)N | C13H10FN3
reactant | Bismuth chloride | 2.07 mmol, 654 mg | [Bi](Cl)(Cl)Cl
reactant | N,N-Diisopropylethylamine | 3.11 mmol, 0.54 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | carbonate | ca. 3.5 mmoles, 11.91 g | C([O-])([O-])=O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | bismuth chloride | 1.05 mmol, 0.33 g | [Bi](Cl)(Cl)Cl
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(4-Fluorophenyl)-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-indazol-4-amine | 4.31 g | FC1=CC=C(C=C1)N1N=CC=2C(=CC=CC12)NCC1(OC1)C(F)(F)F | C17H13F4N3O
